US06380215B1
To a solution of thiophenol (0.15 ml) in N,N-dimethylformamide (6 ml) was added NaH (58 mg) under ice cooling. After stirring at room temperature for 30 minutes, N-(benzyloxycarbonyl)-3(S)-iodomethy-β-alanine tert-butyl ester (0.6 g) was added and stirred for additional 1 hour. The mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, brine and dried over MgSO4, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with 5% (EtOAc/n-hexane) to give N-(benzyloxycarbonyl)-3(S)-phenylthiomethy-β-alanine tert-butyl ester (0.64 g) as an pale yellow oil.

reactant | thiophenol | 0.15 ml | C1(=CC=CC=C1)S | C6H6S
reactant | NaH | 58 mg | [H-].[Na+]
reactant | N-(benzyloxycarbonyl)-3(S)-iodomethy-β-alanine tert-butyl ester | 0.6 g | C(C)(C)(C)OC(C[C@H](NC(=O)OCC1=CC=CC=C1)CI)=O | C16H22INO4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | N-(benzyloxycarbonyl)-3(S)-phenylthiomethy-β-alanine tert-butyl ester | 0.64 g | C(C)(C)(C)OC(C[C@H](NC(=O)OCC1=CC=CC=C1)CSC1=CC=CC=C1)=O | C22H27NO4S
